datasets/RMG-dataset.csv
rxn,Ea
[C:0]([S:1][H:5])([H:2])([H:3])[H:4].[C:6]([C:7]([S:8][H:13])[H:12])([H:9])([H:10])[H:11]>>[C:0]([S:1])([H:2])([H:3])[H:4].[H:5][C:7]([C:6]([H:9])([H:10])[H:11])([S:8][H:13])[H:12],-2.9288
[H:5].[S:0]([S:1][S:2][H:4])[H:3]>>[S:0][H:3].[S:1]([S:2][H:4])[H:5],7.5312
[C:0](=[C:1]([C:2](=[C:3]([C:4]([H:10])([H:11])[H:12])[H:9])[H:8])[H:7])([H:5])[H:6].[C:13]([H:14])([H:15])[H:16]>>[C:0](=[C:1]([C:2](=[C:3]([C:4]([H:11])[H:12])[H:9])[H:8])[H:7])([H:5])[H:6].[H:10][C:13]([H:14])([H:15])[H:16],23.7442
[C:0]([N:1][C:2]([H:6])([H:7])[H:8])([H:3])([H:4])[H:5].[C:9]([H:10])([H:11])[H:12]>>[C:0](=[N:1][C:2]([H:6])([H:7])[H:8])([H:4])[H:5].[H:3][C:9]([H:10])([H:11])[H:12],0.0
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])=[C:4]=[C:5]([H:10])[H:11])[H:6].[C:12](=[C:13]([C:14]([C:15]([H:20])([H:21])[H:22])[H:19])[H:18])([H:16])[H:17]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([C:4]=[C:5]([H:10])[H:11])[C:14]([C:13](=[C:12]([H:16])[H:17])[H:18])([C:15]([H:20])([H:21])[H:22])[H:19])[H:6],60.7935
[C:0](=[C:1]([C:2]([C:3]([C:4](=[C:5]([C:6]([H:15])([H:16])[H:17])[C:7]([H:18])([H:19])[H:20])[H:14])([H:12])[H:13])[H:11])[H:10])([H:8])[H:9]>>[C:0](=[C:1]([C:2]1([H:11])[C:3]([H:12])([H:13])[C:4]1([C:5]([C:6]([H:15])([H:16])[H:17])[C:7]([H:18])([H:19])[H:20])[H:14])[H:10])([H:8])[H:9],70.1657
[H:5].[N:0]([O:1][H:4])([H:2])[H:3]>>[H:2][H:5].[N:0]([O:1][H:4])[H:3],26.15
[C:0](#[C:1][C:2](=[C:3]([H:6])[H:7])[H:5])[H:4].[C:8]([C:9]([C:10]([H:15])([H:16])[H:17])[H:14])([H:11])([H:12])[H:13]>>[C:0](#[C:1][C:2]=[C:3]([H:6])[H:7])[H:4].[H:5][C:9]([C:8]([H:11])([H:12])[H:13])([C:10]([H:15])([H:16])[H:17])[H:14],51.9653
[C:0](=[C:1]([C:2](=[C:3]([H:8])[H:9])[H:7])[H:6])([H:4])[H:5].[C:10]([C:11]([C:12]([H:18])([H:19])[H:20])[C:13](=[S:14])[H:21])([H:15])([H:16])[H:17]>>[C:0](=[C:1][C:2](=[C:3]([H:8])[H:9])[H:7])([H:4])[H:5].[H:6][C:11]([C:10]([H:15])([H:16])[H:17])([C:12]([H:18])([H:19])[H:20])[C:13](=[S:14])[H:21],125.102
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[H:5])[H:4].[S:9]([C:10]([c:11]1[c:12]([H:20])[c:13]([H:21])[c:14]([H:22])[c:15]([H:23])[c:16]1[H:24])([H:18])[H:19])[H:17]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([H:5])[H:18])[H:4].[S:9]([C:10]([c:11]1[c:12]([H:20])[c:13]([H:21])[c:14]([H:22])[c:15]([H:23])[c:16]1[H:24])[H:19])[H:17],24.2672
[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])[C:4]([H:11])([H:12])[H:13])[H:7])([H:5])[H:6].[C:14]([S:15][H:19])([H:16])([H:17])[H:18]>>[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])([C:4]([H:11])([H:12])[H:13])[H:19])[H:7])([H:5])[H:6].[C:14]([S:15])([H:16])([H:17])[H:18],21.3384
[C:0]([C:1]([C:2]([H:14])([H:15])[H:16])=[C:3]([C:4]([H:17])([H:18])[H:19])[c:5]1[c:6]([H:20])[c:7]([H:21])[c:8]([H:22])[c:9]([H:23])[c:10]1[H:24])([H:11])([H:12])[H:13].[C:25]([H:26])([H:27])[H:28]>>[C:0]([C:1]([C:2]([H:14])([H:15])[H:16])[C:3]([C:4]([H:17])([H:18])[H:19])([c:5]1[c:6]([H:20])[c:7]([H:21])[c:8]([H:22])[c:9]([H:23])[c:10]1[H:24])[C:25]([H:26])([H:27])[H:28])([H:11])([H:12])[H:13],37.8234
[C:0]([C:1](=[C:2]([C:3](=[C:4]1[C:5]([H:15])=[C:6]([H:16])[C:7]([H:17])=[C:8]([H:18])[C:9]1([H:19])[H:20])[H:14])[H:13])[H:12])([H:10])[H:11]>>[C:0]1([H:10])([H:11])[C:1]([H:12])=[C:2]([H:13])[C:3]([H:14])=[C:4]2[C:5]1([H:15])[C:6]([H:16])[C:7]([H:17])=[C:8]([H:18])[C:9]2([H:19])[H:20],167.36
[C:0]([C:1](=[O:2])[H:6])([H:3])([H:4])[H:5].[C:7]([O:8][C:9]([O:10][O:11])([H:15])[H:16])([H:12])([H:13])[H:14]>>[C:0]([C:1]=[O:2])([H:3])([H:4])[H:5].[H:6][O:11][O:10][C:9]([O:8][C:7]([H:12])([H:13])[H:14])([H:15])[H:16],56.9024
[C:0]([c:1]1[c:2]([H:16])[c:3]([H:17])[c:4]([H:18])[c:5]2[c:6]([H:19])[c:7]([H:20])[c:8]([H:21])[c:9]([C:10]([C:11](=[C:12]([H:25])[H:26])[H:24])([H:22])[H:23])[c:13]12)([H:14])[H:15]>>[C:0]1([H:14])([H:15])[c:1]2[c:2]([H:16])[c:3]([H:17])[c:4]([H:18])[c:5]3[c:6]([H:19])[c:7]([H:20])[c:8]([H:21])[c:9]([c:13]23)[C:10]([H:22])([H:23])[C:11]1([C:12]([H:25])[H:26])[H:24],188.28
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[H:5])[H:4].[C:9](=[C:10]([c:11]1[c:12]([H:20])[c:13]([H:21])[c:14]([H:22])[c:15]([H:23])[c:16]1[H:24])[H:19])([H:17])[H:18]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([H:5])[C:10]([C:9]([H:17])[H:18])([c:11]1[c:12]([H:20])[c:13]([H:21])[c:14]([H:22])[c:15]([H:23])[c:16]1[H:24])[H:19])[H:4],49.3294
[C:0](=[C:1]([C:2](=[C:3]([C:4](=[C:5]([H:12])[H:13])[H:11])[H:10])[H:9])[H:8])([H:6])[H:7].[C:14](=[C:15]([C:16]([C:17](=[C:18]([H:24])[H:25])[H:23])[H:22])[H:21])([H:19])[H:20]>>[C:0](=[C:1]([C:2]([C:3]([C:4](=[C:5]([H:12])[H:13])[H:11])[H:10])([H:9])[C:16]([C:15](=[C:14]([H:19])[H:20])[H:21])([C:17](=[C:18]([H:24])[H:25])[H:23])[H:22])[H:8])([H:6])[H:7],61.8814
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[H:5])[H:4].[C:9]1([H:16])([H:17])[C:10]([H:18])([H:19])[C:11]2([H:20])[C:12]([H:21])([H:22])[C:13]([H:23])([H:24])[C:14]1([H:25])[C:15]2([H:26])[H:27]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([H:5])[H:20])[H:4].[C:9]1([H:16])([H:17])[C:10]([H:18])([H:19])[C:11]2[C:12]([H:21])([H:22])[C:13]([H:23])([H:24])[C:14]1([H:25])[C:15]2([H:26])[H:27],97.278
